US04420424
(A) Z-D-Asp(OBut)-Val-Tyr(But)-OMe
6.46 g (20 mmoles) of Z-D-Asp(OBut)-OH are subjected to a condensation reaction with 7.73 g (20 mmoles) of H-Val-Tyr(But)-OMe.HCl in 50 ml of dimethylformamide analogously to Examples 38 A. Yield 11.2 g (85%), melting point 90°-92°, [α]D27 =-3.5° (c=1, methanol).

reactant | Z-D-Asp(OBut)-OH | 20 mmoles, 6.46 g | N([C@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H21NO6
reactant | H-Val-Tyr(But)-OMe.HCl | 20 mmoles, 7.73 g | N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC.Cl
reactant | methanol | CO | CH4O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Z-D-Asp(OBut)-Val-Tyr(But)-OMe | N([C@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C35H49N3O9
